US04539419
Under an argon atmosphere, 2 g of [[8-acetyl-7-hydroxy-2-naphthalenyl]oxy]acetic acid methyl ester was added to a suspension of 0.32 g of 60% sodium hydride in 30 ml of anhydrous dimethylformamide. The mixture was stirred at room temperature for 30 minutes and then 8.5 g of bis-(2-bromoethyl)ether was added and the mixture was stirred at room temperature for 20 hours. The solvent was removed and residual oil was purified by high pressure liquid chromatography using 7% ethyl acetate-toluene to yield 2.4 g (77%) of [[8-acetyl-7-[2-(2-bromoethoxy)ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester as an oil.

reactant | [[8-acetyl-7-hydroxy-2-naphthalenyl]oxy]acetic acid methyl ester | 2 g | COC(COC1=CC2=C(C(=CC=C2C=C1)O)C(C)=O)=O | C15H14O5
reactant | sodium hydride | 0.32 g | [H-].[Na+]
reactant | bis-(2-bromoethyl)ether | 8.5 g | BrCCOCCBr | C4H8Br2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | [[8-acetyl-7-[2-(2-bromoethoxy)ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 2.4 g, 77% | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCOCCBr)C(C)=O)=O | C19H21BrO6
